US06545017B1
N-[4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide (4.20 g, 10.4 mmol) and ammonium acetate (42 g) were combined and then heated in a sealed tube at 150° C. for 36 hrs. The reaction mixture was allowed to cool and then it was dissolved in chloroform. The solution was extracted with 10% aqueous sodium hydroxide solution. The aqueous layer was separated and then extracted multiple times with chloroform. The organic layers were combined, dried over magnesium sulfate and then concentrated under reduced pressure to provide a yellow oil. The oil was dissolved in methanol and combined with 1M hydrochloric acid in diethyl ether (10.4 mL). The resulting white precipitate was isolated by filtration and dried. The solid was dissolved in water and the solution was adjusted to pH 10 with solid sodium carbonate. The resulting white precipitate was isolated by filtration, washed with diethyl ether and then dried in a vacuum oven at 80° C. to provide 2.00 g of N-[4-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide, m.p. 228-230° C. Analysis: Calculated for C14H23N5O2S: %C, 51.67; %H, 7.12; %N, 21.52; Found: %C, 51.48; %H, 6.95; %N, 21.51.

reactant | N-[4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide | 10.4 mmol, 4.20 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCNS(=O)(=O)C | C20H26N4O3S
reactant | ammonium acetate | 42 g | C(C)(=O)[O-].[NH4+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | diethyl ether | 10.4 mL | C(C)OCC | C4H10O
product | N-[4-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]methanesulfonamide | 2.00 g | NC1=NC(=C(C2=C1N=C(N2CCCCNS(=O)(=O)C)C)C)C | C14H23N5O2S
